US06831177B1
To 10 ml of a solution of 1.00 g (8.85 mmol) of 1H-1,2,4-triazole-3-carboxylic acid in 99.5% ethanol was added dropwise under stirring and cooling at 5° C. 1.58 g (13.2 mmol) of thionylchloride. The mixture was stirred under heating at 70° C. for 4 hours. Then, the solvent was removed under reduced pressure and the obtained residue was washed with 18 ml of ethylacetate. The obtained crystal was dried at room temperature under reduced pressure to give 1.00 g of 1H-1,2,4-triazole-3-carboxylic acid ethyl ester hydrochloride. Yield: 63.7%.

reactant | 1H-1,2,4-triazole-3-carboxylic acid | 8.85 mmol, 1.00 g | N1N=C(N=C1)C(=O)O | C3H3N3O2
reactant | thionylchloride | 13.2 mmol, 1.58 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | C(C)O | C2H6O
product | 1H-1,2,4-triazole-3-carboxylic acid ethyl ester hydrochloride | 1.00 g, Yield: 63.7% | Cl.C(C)OC(=O)C1=NNC=N1 | InChI=1S/C5H7N3O2.ClH/c1-2-10-5(9)4-6-3-7-8-4;/h3H,2H2,1H3,(H,6,7,8);1H
